US06121285
Cis 4-(1-ethoxycarbonylcyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (optical isomer B)
Under a nitrogen atmosphere, diisopropylamine (2.97 ml, 21.19 mmol) was dissolved in anhydrous tetrahydrofuran (30 ml) to which, after cooling to -78° C., was subsequently added dropwise an n-hexane solution of 1.63 M n-butyl lithium (10.8 ml, 17.60 mmol) over a period of 5 minutes. After 15 minutes of stirring at 0° C., the reaction solution was cooled to -78° C. and trans 4-(1-ethoxycarbonylcyclopropyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (optical isomer B; 4.71 g, 14.13 mmol) dissolved in anhydrous tetrahydrofuran (30 ml) was added dropwise thereto over a period of 5 minutes. The reaction solution was stirred at -78° C. for 3 minutes, and 2,6-di-tert-butylphenol (4.37 g, 21.18 mmol) dissolved in anhydrous tetrahydrofuran (40 ml) was added dropwise thereto over a period of 5 minutes. The reaction solution was stirred at -78° C. for 10 minutes, mixed with saturated ammonium chloride aqueous solution (200 ml) and then warmed to room temperature. The organic layer was separated and then the aqueous layer was extracted with chloroform (100 ml×2). The organic layers were combined, washed with water (100 ml×2) and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to silica gel column chromatography and eluted with an eluant of n-hexane:ethyl acetate=2:1 to recover 1.96 g (42%) of the starting material and then with n-hexane:ethyl acetate=3:2 to obtain 1.79 g (38%) of the title compound in an oily form.

reactant | diisopropylamine | 21.19 mmol, 2.97 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 17.60 mmol, 1.63 M, 10.8 ml | C(CCC)[Li]
reactant | trans 4-(1-ethoxycarbonylcyclopropyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 14.13 mmol, 4.71 g | C(C)OC(=O)C1(CC1)[C@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C18H22FNO3
reactant | 2,6-di-tert-butylphenol | 21.18 mmol, 4.37 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | Cis 4-(1-ethoxycarbonylcyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 1.79 g, 38% | C(C)OC(=O)C1(CCC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C19H24FNO3
